US06953859B2
To this solution, dimethyl carbonate (74 g, 0.82 mol) and 30% sodium methylate (147 g, 0.82 mol) were again added and reacted at from 60 to 70° C. for 2 hours. Thereafter, a part of the reaction solution was sampled and the components of the reaction solution were analyzed by HPLC, as a result, the concentration of 2 -hydroxyhexanoic acid amide was 0 mass % in the solution and the concentration of 5-butyl-oxazolidin-2,4-dione sodium salt as the objective product was 27.5% in the solution. From these analysis values, the conversion of 2-hydroxyhexanoic acid amide was 100% and the yield in terms of 5-butyl-oxazolidin-2,4-dione was 94.1%.

reactant | dimethyl carbonate | 0.82 mol, 74 g | C(OC)(OC)=O | C3H6O3
reactant | sodium methylate | 0.82 mol, 147 g | C[O-].[Na+]
reactant | 2 -hydroxyhexanoic acid amide | OC(C(=O)N)CCCC | C6H13NO2
reactant | 5-butyl-oxazolidin-2,4-dione sodium salt | [Na].C(CCC)C1C(NC(O1)=O)=O
product | 5-butyl-oxazolidin-2,4-dione | C(CCC)C1C(NC(O1)=O)=O | C7H11NO3
